US07820683B2
(2R)-2-[(4-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]-N-ethylpropanamide
Using the same procedure as in Example 5, methyl (2R)-2-[(4-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate (250 mg, 0.53 mmol) was reacted with ethylamine to give the title compound as a white solid (195 mg, 76%); NMR Spectrum 1.04 (t, 3H), 1.65 (d, 3H), 3.14-3.20 (m, 2H), 5.16 (q, 1H), 5.71 (s, 2H), 7.01 (d, 1H), 7.04-7.12 (m, 3H), 7.36 (dd, 2H), 7.72-7.78 (m, 3H), 8.17 (s, 1H), 8.44 (m, 1H), 8.53 (s, 1H), 8.56 (s, 1H), 10.68 (br s, 1H); Mass spectrum MH+ 485.

reactant | methyl (2R)-2-[(4-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate | 0.53 mmol, 250 mg | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NC3=CC=CC(=C23)O[C@@H](C(=O)OC)C)C=CC1 | C26H22FN5O3
reactant | ethylamine | C(C)N | C2H7N
product | (2R)-2-[(4-{[1-(3-fluorobenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]-N-ethylpropanamide | 195 mg, 76% | FC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NC3=CC=CC(=C23)O[C@@H](C(=O)NCC)C)C=CC1 | C27H25FN6O2
